US07125896B2
b) 2-(Thien-2-ylmethoxy)-5-bromopyridine
Prepared from 2,5-dibromopyridine and thiophen-2-methanol by the method of Example 10 (b).

reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | thiophen-2-methanol | S1C(=CC=C1)CO | C5H6OS
product | 2-(Thien-2-ylmethoxy)-5-bromopyridine | S1C(=CC=C1)COC1=NC=C(C=C1)Br | C10H8BrNOS
